US08304419B2
Step D: 2,4-dimethyl-1H-imidazole-5-carboxylic acid
Lithium hydroxide (1.6 mL, 1.6 mmol, 1 M in H2O) was added to a solution of ethyl 2,4-dimethyl-1H-imidazole-5-carboxylate (54 mg, 0.32 mmol) in THF:MeOH (4.8 mL/1.6 mL). The reaction mixture was heated at 70° C. for 4 h. The solvent was evaporated and dried in vacuo to give the title compound (mg, >99%) as a white solid which was directly used in the next step without purification.

reactant | Lithium hydroxide | 1.6 mmol, 1 M, 1.6 mL | [OH-].[Li+]
reactant | ethyl 2,4-dimethyl-1H-imidazole-5-carboxylate | 0.32 mmol, 54 mg | CC=1NC(=C(N1)C)C(=O)OCC | C8H12N2O2
reactant | MeOH | 4.8 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 2,4-dimethyl-1H-imidazole-5-carboxylic acid | >99% | CC=1NC(=C(N1)C)C(=O)O | C6H8N2O2
